US08937090B2
5) N-nicotinoyl-β-alanine
Ten grams of β-alanine and 9 g of sodium hydroxide were dissolved in 100 mL of purified water, and 18.15 g of nicotinoyl chloride hydrochloride were added dropwise under freezing conditions. After stirring for five hours, the product was filtered, the resulting crude product was recrystallized with aqueous ethanol, and 19.1 g of the desired product was obtained (yield of 84%).

reactant | β-alanine | Ten grams | NCCC(=O)O | C3H7NO2
reactant | sodium hydroxide | 9 g | [OH-].[Na+]
reactant | nicotinoyl chloride hydrochloride | 18.15 g | Cl.C(C1=CN=CC=C1)(=O)Cl
solvent | water | 100 mL | O | H2O
product | N-nicotinoyl-β-alanine | 19.1 g, yield of 84% | C(C1=CN=CC=C1)(=O)NCCC(=O)O | C9H10N2O3
